US07081533B2
trans-4-(4-Bromo-2,5-dimethyl-3-thienyl)tetrahydro-3-furanol
n-Butyllithium (1.6 M in hexane; 0.239 mol) is added dropwise to a solution of 3,4-dibromo-2,5-dimethylthiophene (0.239 mol) in 325 ml of THF which has been cooled to −78° C. and the mixture is stirred for 30 minutes. 3,4-Epoxytetrahydrofuran (0.217 mol) and boron trifluoride etherate (0.217 mol) are added dropwise to this solution. The reaction solution is warmed to 0° C. and stirred for a further 3 hours. It is subsequently hydrolyzed with saturated ammonium chloride solution and the aqueous phase is extracted twice with tert-butyl methyl ether. After drying, the solvent is removed under reduced pressure and the crude product is purified by chromatography. The product is obtained as an oil in a yield of 64%.

reactant | n-Butyllithium | 0.239 mol, 1.6 M | C(CCC)[Li]
reactant | 3,4-dibromo-2,5-dimethylthiophene | 0.239 mol | BrC1=C(SC(=C1Br)C)C | C6H6Br2S
reactant | 3,4-Epoxytetrahydrofuran | 0.217 mol | O1C2COCC21 | C4H6O2
reactant | boron trifluoride etherate | 0.217 mol | B(F)(F)F.CCOCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 325 ml | C1CCOC1 | C4H8O
product | trans-4-(4-Bromo-2,5-dimethyl-3-thienyl)tetrahydro-3-furanol | yield of 64% | BrC=1C(=C(SC1C)C)[C@H]1[C@@H](COC1)O | C10H13BrO2S
